* C:\FOSSEE\eSim\library\SubcircuitLibrary\SN74LVC1G0832\SN74LVC1G0832.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 07/13/25 19:29:57

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U2  Net-_U1-Pad1_ Net-_U1-Pad3_ Net-_U2-Pad3_ d_and		
U3  Net-_U2-Pad3_ Net-_U1-Pad6_ Net-_U1-Pad4_ d_or		
U1  Net-_U1-Pad1_ GND Net-_U1-Pad3_ Net-_U1-Pad4_ GND Net-_U1-Pad6_ PORT		

.end
